US03997535
3-Methoxy-N(1H-tetrazol-5-yl)-2-quinoxalinecarboxamide
3Methoxy-2-quinoxalinecarboxylic acid (1.5 g) and N,N-carbonyldiimidazole (1.2 g) in tetrahydrofuran (50 ml) were heated under reflux for 15 minutes. 5-Amino-1H-tetrazole (0.7 g) in dimethylformamide (5 ml) was added and the solution was heated under reflux for 1 hour. The crystalline solid was collected and stirred with dilute hydrochloric acid (25 ml., 2N) and the solid was filtered off and dried. It had m.p. 260° (d) (45%).

reactant | 3Methoxy-2-quinoxalinecarboxylic acid | 1.5 g | COC=1C(=NC2=CC=CC=C2N1)C(=O)O | C10H8N2O3
reactant | N,N-carbonyldiimidazole | 1.2 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-Amino-1H-tetrazole | 0.7 g | NC1=NN=NN1 | CH3N5
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-Methoxy-N(1H-tetrazol-5-yl)-2-quinoxalinecarboxamide | COC=1C(=NC2=CC=CC=C2N1)C(=O)NC1=NN=NN1 | C11H9N7O2
